US07674789B2
N-{3-[8-(2,6-difluorophenyl)-2-(dimethylamino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide
To the compound N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide (0.075 g, 0.129 mmol) in THF (4 mL) was added a 1.0 M solution of dimethylamine in THF (0.322 mL, 0.322 mmol). The mixture was stirred under argon for 3 days. The completed reaction mixture was diluted with EtOAc and the organic phase washed with water, brine (2×), dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash chromatography on silica gel, eluting with 1% MeOH/CH2Cl2 to afford the title compound as a white solid. mp 257.8-264.3° C.; LC-MS m/z 547 (M+H)+, 2.24 min (ret. time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | 0.129 mmol, 0.075 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)S(=O)(=O)C)=O | C28H22F3N5O4S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.322 mmol, 0.322 mL | C1CCOC1 | C4H8O
product | N-{3-[8-(2,6-difluorophenyl)-2-(dimethylamino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-fluoro-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)C)F)=O)N(C)C)=O | C29H25F3N6O2
